US03931269
α-Diethylcarbamylthio-6-methoxy-2-naphthylacetic acid
When diethylcarbamylchloride is replaced in the above procedure by carbamyl chloride (prepared in situ from potassium cyanate and anhydrous hydrogen chloride in anhydrous chloroform), ethylcarbamyl chloride or dimethylcarbamyl chloride, then the products prepared are α-carbamylthio-6-methoxy-2-naphthylacetic acid, α-ethylcarbamylthio-6-methoxy-2-naphthylacetic acid or α-dimethylcarbamylthio-6-methoxy-2-naphthylacetic acid.

reactant | diethylcarbamylchloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | carbamyl chloride | C(N)(=O)Cl | CH2ClNO
reactant | ethylcarbamyl chloride | C(C)NC(=O)Cl | C3H6ClNO
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | α-carbamylthio-6-methoxy-2-naphthylacetic acid | C(N)(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C14H13NO4S
reactant | α-ethylcarbamylthio-6-methoxy-2-naphthylacetic acid | C(C)NC(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C16H17NO4S
reactant | α-dimethylcarbamylthio-6-methoxy-2-naphthylacetic acid | CN(C(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC)C | C16H17NO4S
product | α-Diethylcarbamylthio-6-methoxy-2-naphthylacetic acid | C(C)N(C(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC)CC | C18H21NO4S
